US04463173
To a stirred suspension of 7-amino-3-acetoxymethylceph-3-em-4-carboxylic acid toluene-p-sulphonate dihydrate (19.2 g., 40 mmole) in anhydrous THF (500 ml.) under nitrogen in a 1 liter flask was added triethylamine (dried over potassium, 27.76 ml., 200 mmole) then trimethylchlorosilane (20.18 ml., 17.36 g., 160 mmole) while maintaining the temperature at 20° with a cooling bath. After 30 minutes a further 10% of triethylamine and 10% of trimethylchlorosilane were added and the reaction mixture was allowed to stir for a further 2.5 hours. To the mixture was then added acetic formic mixed anhydride (7.04 g., 80 mmole) with cooling in an ice bath. A further 10% trimethylamine, 10% trimethylchlorosilane and 20% acetic formic mixed anhydride, and then yet a further 10% of all three reagents were added to achieve complete disappearance of starting material on t.l.c. Water was then added, the suspension was filtered on a sintered glass disc and the solid dried to give 3-acetoxymethyl-7-formylaminoceph-3-em-4-carboxylic acid.

reactant | 7-amino-3-acetoxymethylceph-3-em-4-carboxylic acid toluene-p-sulphonate dihydrate | 40 mmole, 19.2 g | O.O.C1(=CC=C(C=C1)S(=O)(=O)O)C.NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O
reactant | trimethylchlorosilane | 160 mmole, 20.18 ml, 17.36 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | trimethylamine | CN(C)C | C3H9N
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 200 mmole, 27.76 ml | C(C)N(CC)CC | C6H15N
product | 3-acetoxymethyl-7-formylaminoceph-3-em-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC=O)=O | C11H12N2O6S
